US07439393B2
vi) N-(3-Aminophenyl)-N′-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]urea
A solution of N-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-N′-(3-nitrophenyl)urea (0.976 g) in EtOH (12 ml) and EtOAc (12 ml) was hydrogenated over platinum oxide (0.020 g) for 2 h. The mixture was filtered through celite and washed with EtOH. Solvent evaporation in vacuo gave the title compound (0.93 g). LCMS RT=3.48 min, ES+ve 633 (MH)+.

reactant | N-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-N′-(3-nitrophenyl)urea | 0.976 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC=2C=C(C=CC2)NC(=O)NC2=CC(=CC=C2)[N+](=O)[O-])C | C35H42N4O9
solvent | EtOH | 12 ml | CCO | C2H6O
solvent | EtOAc | 12 ml | CCOC(=O)C | C4H8O2
catalyst | platinum oxide | 0.020 g | [Pt]=O
product | N-(3-Aminophenyl)-N′-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]urea | 0.93 g | NC=1C=C(C=CC1)NC(=O)NC1=CC(=CC=C1)COCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C35H44N4O7
